US06608049B2
In an analogous manner to the procedure of Example II, 2.88 g (11.20 mmol) of 5-benzyloxy-2-nitrobenzaldehyde in 30 ml of THF are reacted at −78° C. with 31.7 ml (15.67 mmol) of a 0.5 M 2-methyl-propenylmagnesium bromide soln in THF to give 1.8 g (51%) of 1-[5-(benzyloxy)-2-nitrophenyl]-3-methyl-2-buten-1-ol.

reactant | 5-benzyloxy-2-nitrobenzaldehyde | 11.20 mmol, 2.88 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H11NO4
reactant | 2-methyl-propenylmagnesium bromide | 0.5 M | CC(=C[Mg]Br)C
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-[5-(benzyloxy)-2-nitrophenyl]-3-methyl-2-buten-1-ol | 1.8 g, 51% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C=C(C)C)O)[N+](=O)[O-] | C18H19NO4
